US09119868B2
A mixture of 6-(N-(3-bromophenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide (221 mg, 0.396 mmol), 4,4,5,5-tetramethyl-2-vinyl-1,3,2-dioxaborolane (0.134 mL, 0.793 mmol), [1,1′-bis(diphenylphosphino)ferrocene]-dichloropalladium(II), complex with dichloromethane (32.4 mg, 0.040 mmol) and sodium carbonate (126 mg, 1.189 mmol) in dioxane:water/4:1 (5 mL) was heated in a microwave reactor at 130° C. for 30 minutes. The reaction mixture was diluted with EtOAc and filtered through Celite. The solvent was evaporated and the residue was purified by silica gel chromatography (hexane:EtOAc) to give 5-cyclopropyl-2-(4-fluorophenyl)-N-methyl-6-(N-(3-vinylphenyl)methylsulfonamido)benzofuran-3-carboxamide (171 mg, 85% purity) as a sticky off-white foam. LCMS (m/z, ES+)=505 (M+H+). This material was taken to the next step without further purification.

reactant | 6-(N-(3-bromophenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | 0.396 mmol, 221 mg | BrC=1C=C(C=CC1)N(S(=O)(=O)C)C1=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C=C1C1CC1 | C26H22BrFN2O4S
reactant | 4,4,5,5-tetramethyl-2-vinyl-1,3,2-dioxaborolane | 0.793 mmol, 0.134 mL | CC1(OB(OC1(C)C)C=C)C | C8H15BO2
reactant | dichloromethane | 0.040 mmol, 32.4 mg | ClCCl | CH2Cl2
reactant | sodium carbonate | 1.189 mmol, 126 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]-dichloropalladium(II) | Cl[Pd]Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
solvent | water | 5 mL | O | H2O
product | 5-cyclopropyl-2-(4-fluorophenyl)-N-methyl-6-(N-(3-vinylphenyl)methylsulfonamido)benzofuran-3-carboxamide | 171 mg, 85% | C1(CC1)C=1C(=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C1)N(S(=O)(=O)C)C1=CC(=CC=C1)C=C | C28H25FN2O4S
